US05173497
To a chilled (0° C.) solution of 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, ethyl ester (2.07 g) in anhydrous 4-methoxyphenylmethyl alcohol (40 ml) was added titanium (IV) ethoxide (0.54 ml) with stirring under nitrogen atmosphere. The reaction mixture was heated without refluxing for 8 hours. The 4-methoxyphenylmethyl alcohol was removed by distillation under high vacuum and the residue was dissolved in dichloromethane (200 ml). The residue was washed successively with two 100 ml portions of saturated aqueous NH4Cl solution, two 100 ml portions of saturated aqueous NaHCO3 solution and with brine, dried (Na2SO4), filtered and evaporated to yield an oil. The oil was purified by preparative HPLC (silica gel, 3% methanol in ethyl acetate as the loading solvent and eluent). A second preparative HPLC purification using 3% methanol in dichloromethane, yielded 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, 4-methoxyphenylmethyl ester (0.84 g) as an oil.

reactant | 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, ethyl ester | 2.07 g | O=C(C(=O)OCC)C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C17H22N2O3
reactant | 4-methoxyphenylmethyl alcohol | 40 ml | COC1=CC=C(C=C1)CO | C8H10O2
catalyst | titanium (IV) ethoxide | 0.54 ml | [O-]CC.[Ti+4].[O-]CC.[O-]CC.[O-]CC
product | 1,2,3,3a,8,8a-hexahydro-α-oxo-1,3a,8-trimethyl-5-pyrrolo[2,3-b]indole acetic acid, 4-methoxyphenylmethyl ester | 0.84 g | O=C(C(=O)OCC1=CC=C(C=C1)OC)C=1C=C2C3(C(N(C2=CC1)C)N(CC3)C)C | C23H26N2O4
